US03947473
To a solution of 70 ml. of 70% by weight of bis (2-methoxyethoxy) sodium aluminum hydride in toluene (0.25 mol) in 500 ml. of anhydrous diethyl ether was added, dropwise over 1.0 hour, 69.2 g. (0.326 mol.) of (±)-2,6,10-trimethylundecanal. The solution was stirred 1.0 hour, poured onto ice and 10N aqueous NaOH, and worked up with ether and dried as described in Example 2. Distillation of the crude product gave (±)-2,6,10-trimethylundecan-1-ol as a colorless oil; b.p. 96°-98°C./0.20 mmHg.

reactant | toluene | 0.25 mol | C1(=CC=CC=C1)C | C7H8
reactant | (±)-2,6,10-trimethylundecanal | 0.326 mol | CC(C=O)CCCC(CCCC(C)C)C | C14H28O
reactant | NaOH | 10N | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (±)-2,6,10-trimethylundecan-1-ol | CC(CO)CCCC(CCCC(C)C)C | C14H30O
